US05767285
4-(2-Chloro-4-formylphenoxy)butanoic acid
Following the procedure of Preparation 3, 2.88 g (18.41 mmol) of 3-chloro-4-hydroxybenzaldehyde is alkylated as before. This produces 4.65 g (93%) of 4-(2-chloro-4-formylphenoxy)butanoic acid, ethyl ester as an orange oil: IR (neat) 1730, 1685 cm-1 ; 1HNMR (CDCl3) is consistent with the desired product; MS (CI) m/e 271 (M+ +H). Analysis calculated for C13H15O4Cl: C, 57.68; H, 5.58; Cl, 13.10; O, 23.64. Found: C, 58.05; H, 5.37; Cl, 12.43; O, 24.15.

reactant | 3-chloro-4-hydroxybenzaldehyde | 18.41 mmol, 2.88 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | 4-(2-chloro-4-formylphenoxy)butanoic acid, ethyl ester | 4.65 g | ClC1=C(OCCCC(=O)OCC)C=CC(=C1)C=O | C13H15ClO4
product | 4-(2-Chloro-4-formylphenoxy)butanoic acid | ClC1=C(OCCCC(=O)O)C=CC(=C1)C=O | C11H11ClO4
